US09062070B2
Step E: (9aR)-tert-butyl 3-(2-chloro-3-cyano-4-fluorophenyl)hexahydropyrazino[2,1-c][1,4]oxazine-8(1H)-carboxylate
(3R)-tert-butyl 4-(2-(2-chloro-3-cyano-4-fluorophenyl)-2-hydroxyethyl)-3-(hydroxymethyl)piperazine-1-carboxylate (15.6 g, 37.3 mmol) and cyanomethylene tri-n-butyl phosphorane (16.4 g, 67.8 mmol) were dissolved in benzene (90 mL), degassed and heated at 100° C. for 16 h. The reaction mixture was concentrated and chromatographed through a 330 g ISCO Redi-sep column and eluted with 35% EtOAc/hexane to yield the title compound (cis-trans diastereomers mixture). LC-MS (IE, m/z): 396 [M+1]+;

reactant | (3R)-tert-butyl 4-(2-(2-chloro-3-cyano-4-fluorophenyl)-2-hydroxyethyl)-3-(hydroxymethyl)piperazine-1-carboxylate | 37.3 mmol, 15.6 g | ClC1=C(C=CC(=C1C#N)F)C(CN1[C@H](CN(CC1)C(=O)OC(C)(C)C)CO)O | C19H25ClFN3O4
reactant | cyanomethylene tri-n-butyl phosphorane | 67.8 mmol, 16.4 g | C(#N)C=P(CCCC)(CCCC)CCCC | C14H28NP
solvent | benzene | 90 mL | C1=CC=CC=C1 | C6H6
product | (9aR)-tert-butyl 3-(2-chloro-3-cyano-4-fluorophenyl)hexahydropyrazino[2,1-c][1,4]oxazine-8(1H)-carboxylate | ClC1=C(C=CC(=C1C#N)F)C1CN2[C@@H](CO1)CN(CC2)C(=O)OC(C)(C)C | C19H23ClFN3O3
